US08710046B2
The solution of 3-(2,2-dimethoxyethyl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate (0.4 g, 1.4 mmol) in methylene chloride (10 mL) with water (3 mL) and TFA (3 mL) was stirred at room temperature for 1.5 h. The reaction mixture was concentrated under reduced pressure to remove the excess trifluoroacetic acid, diluted with methylene chloride, washed with saturated aqueous sodium bicarbonate, re-extracted with methylene chloride, dried (Na2SO4), filtered, and concentrated under reduced pressure to give methyl 2-oxo-3-(2-oxoethyl)-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate (0.2 g, 61%): 1H NMR (500 MHz, DMSO-d5) δ 11.43 (s, 1H), 9.61 (s, 1H), 7.45 (d, J=8.0 Hz, 1H), 7.26 (d, J=8.0 Hz, 1H), 7.12-7.09 (m, 1H), 4.95-4.94 (m, 2H), 3.79 (s, 3H); MS (ESI+) m/z 234 (M+H).

reactant | 3-(2,2-dimethoxyethyl)-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | 1.4 mmol, 0.4 g | COC(CN1C(NC2=C1C(=CC=C2)C(=O)[O-])=O)OC
reactant | water | 3 mL | O | H2O
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-oxo-3-(2-oxoethyl)-2,3-dihydro-1H-benzo[d]imidazole-4-carboxylate | 0.2 g, 61% | O=C1N(C2=C(N1)C=CC=C2C(=O)OC)CC=O | C11H10N2O4
